US07067517B2
4-(4-Methoxy-benzyl)-piperazine-1-carboxylic acid 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl ester
The title compound was prepared from 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl chloroformate and 1-(4-methoxybenzyl)-piperazine, preparative HPLC (Method C) (54%, white crystals). HPLC-MS m/z=466.3 (M+1), Rt: 2.26 min.

reactant | 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)N1C(CC(CC1=O)(C)C)=O | C14H14ClNO4
reactant | 1-(4-methoxybenzyl)-piperazine | COC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2O
product | 4-(4-Methoxy-benzyl)-piperazine-1-carboxylic acid 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl ester | CC1(CC(N(C(C1)=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)OC)=O)C | C26H31N3O5
